US04424351
A mixture of 6 g (0.02 moles) of 1,2-dihydro-3-nonylpyrido[3,4-e]-as-triazine hydrochloride and 80 ml of acetic anhydride is maintained at 80° C. for 2 hours. The product separates upon cooling. 5 g (73%) of 3-nonyl-1-acetyl-1,2-dihydropyrido[3,4-e]-as-triazine hydrochloride are obtained; m.p.: 209°-210° C.

reactant | 1,2-dihydro-3-nonylpyrido[3,4-e]-as-triazine hydrochloride | 0.02 moles, 6 g | Cl.C(CCCCCCCC)C=1NNC2=C(N1)C=NC=C2
reactant | acetic anhydride | 80 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-nonyl-1-acetyl-1,2-dihydropyrido[3,4-e]-as-triazine hydrochloride | 5 g, 73% | Cl.C(CCCCCCCC)C=1NN(C2=C(N1)C=NC=C2)C(C)=O | InChI=1S/C17H26N4O.ClH/c1-3-4-5-6-7-8-9-10-17-19-15-13-18-12-11-16(15)21(20-17)14(2)22;/h11-13H,3-10H2,1-2H3,(H,19,20);1H
